US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxy)-2-methylpropylcarbamoyl]-1,3-thiazol-2-yl}azetidine (1.98 g, 2.60 mmol) (obtained as described in Reference Example 36(2)) in anhydrous tetrahydrofuran (100 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (6.23 ml, 6.23 mmol) in an ice bath. The mixture was stirred in the ice bath overnight. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (95:5) as the eluant to afford 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-2-methylpropylcarbamoyl]-1,3-thiazol-2-yl}azetidine (755 mg, yield 100%) as a colorless oil.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxy)-2-methylpropylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 2.60 mmol, 1.98 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@H](C(C)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C43H53N3O3SSi2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 6.23 mmol, 6.23 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-2-methylpropylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 755 mg, yield 100% | OC1CN(C1)C=1SC=C(N1)C(N[C@@H](C(C)C)CO)=O | C12H19N3O3S
